US07897607B2
N′-(5-Mesityl-3,7-dimethyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-N,N-dimethylurea
To a solution of 2-amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (0.040 g, 0.135 mmol) in tetrahydrofuran (1 mL) were added p-nitrophenyl chloroformate (0.073 g, 0.361 mmol) and triethylamine (0.050 mL, 0.361 mmol), and the mixture was allowed to stir at 60° C. for 2 hours. A 2M solution of dimethylamine in tetrahydrofuran (0.4 mL) was added to the mixture, followed by stirring at 60° C. for 15 hours. After cooling, the reaction mixture was diluted with ice-cold water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with hexane/ethyl acetate (4:1-1:2). The desired fractions were concentrated in vacuo, and the residual crystals were washed with diisopropyl ether-diethyl ether to give 0.012 g (24%) of the title compound.

reactant | 2-amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.135 mmol, 0.040 g | NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)C | C17H20N4O
reactant | p-nitrophenyl chloroformate | 0.361 mmol, 0.073 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 0.361 mmol, 0.050 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
product | N′-(5-Mesityl-3,7-dimethyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-N,N-dimethylurea | 0.012 g, 24% | C1(=C(C(=CC(=C1)C)C)C1=CN(C=2N=C(N(C(C21)=O)C)NC(N(C)C)=O)C)C | C20H25N5O2
